US04562213
657 Milligrams of sodium hydride (as 60% oil suspension) was added to 10 ml of dimethylformamide, and 3.19 g of 2,2-dimethyl-2-(4-ethoxyphenyl)ethanol was added dropwise. Thereafter, the reaction solution was warmed to 50° C. and stirred for 10 minutes, and 4.0 g of 3-bromo-4-fluorobenzyl bromide was added dropwise thereto at 20° C. After completion of the dropwise addition, stirring was continued at 50° C. for further 5 hours, and the reaction solution was then poured into a 5% hydrochloric acid/ice water mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous sodium chloride liquor and dried over anhydrous magnesium sulfate. After removing the solvent by evaporation, the residual oil was purified by column chromatography on a column packed with 60 g of silica gel to obtain 2.37 g of 3-bromo-4-fluorobenzyl 2,2-dimethyl-2-(4-ethoxyphenyl)ethyl ether. 1H-NMR spectrum (CDCl3, TMS). δ 7.4-6.5 (7H, m), δ 4.30 (2H, s), δ 3.99 (2H, q), δ 3.34 (2H, s), δ 1.36 (3H, t), δ 1.30 (6H, s).

reactant | sodium hydride | [H-].[Na+]
reactant | 2,2-dimethyl-2-(4-ethoxyphenyl)ethanol | 3.19 g | CC(CO)(C1=CC=C(C=C1)OCC)C | C12H18O2
reactant | 3-bromo-4-fluorobenzyl bromide | 4.0 g | BrC=1C=C(CBr)C=CC1F | C7H5Br2F
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-bromo-4-fluorobenzyl 2,2-dimethyl-2-(4-ethoxyphenyl)ethyl ether | 2.37 g | CC(COCC1=CC(=C(C=C1)F)Br)(C1=CC=C(C=C1)OCC)C | C19H22BrFO2
